* Z:\mnt\spice-netlists\LT1939.asc
R1 OUT1 N003 42.2K
R2 N003 0 8.06K
R3 OUT2 N009 24.9K
R4 N009 0 8.06K
L1 N002 OUT1 6.8µ
C1 N001 N002 .47µ
V1 IN 0 12
R5 N004 0 53.6K
R6 N005 0 40.2K
C2 N008 0 .001µ
C3 N006 N005 330p
D1 0 N002 MBRS340
C4 OUT1 0 22µ
Q1 OUT1 N007 OUT2 0 FZT849
C5 OUT2 0 22µ
D2 OUT1 N001 CMDSH2-3
XU1 IN NC_01 N008 NC_02 N006 N004 NC_03 N003 N009 N007 N001 N002 0 LT1939
Rload1 OUT1 0 5
Rload2 OUT2 0 3.3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 500u startup
* LT1939 - Monolithic 2A Step-Down Regulator Plus LDO in DFN-12 package\nInput: 12V       Outputs: 5V@1A and  3.3V@1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LT1939.sub
.backanno
.end
